US04451463
To 2,2,2-trifluoroethylamidinothiourea (2.1 g.) in hot EtOH (20 ml.) was added a solution of methyl 6-chloro-5-oxohexanoate (2.0 g.) in hot EtOH (20 ml.). The mixture was heated under reflux for 1 hour and then evaporated to dryness. The residue was partitioned between ether (20 ml.) and water (60 ml.). The aqueous layer was separated, basified with sodium bicarbonate and extracted with EtOAc. The organic layer was evaporated to dryness to give a gum which was recrystallised from EtOAc/ether/acetone to give methyl 4-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]butyrate which was used without further purification.

reactant | 2,2,2-trifluoroethylamidinothiourea | 2.1 g | FC(CNC(=N)NC(=S)N)(F)F | C4H7F3N4S
reactant | methyl 6-chloro-5-oxohexanoate | 2.0 g | ClCC(CCCC(=O)OC)=O | C7H11ClO3
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 20 ml | CCO | C2H6O
product | methyl 4-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]butyrate | FC(CN=C(NC=1SC=C(N1)CCCC(=O)OC)N)(F)F | C11H15F3N4O2S
